US04220644
A suspension of 56 g. (1.0 mol.) of potassium hydroxide and 100 g. (0.5 mol.) of 11-aminoundecanoic acid in 170 ml. of water was stirred for 30 minutes at 25° then 40 g. (0.52 mol.) of carbon disulfide and 80 ml. of ethanol were added and the reaction mixture was stirred at 25° for 12 hours. The mixture was refluxed gently for two hours and cooled. Methyl iodide (71 g., 0.3 mol.) and 130 ml. of ethanol were added to the mixture and it was stirred at 25° for 12 hours. The mixture was evaporated to remove the ethanol and the solid residue was collected by filtration to give methyl 10-carboxydecyldithiocarbamate.

reactant | potassium hydroxide | 1.0 mol | [OH-].[K+]
reactant | 11-aminoundecanoic acid | 0.5 mol | NCCCCCCCCCCC(=O)O | C11H23NO2
reactant | carbon disulfide | 0.52 mol | C(=S)=S | CS2
reactant | Methyl iodide | 0.3 mol, 71 g | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | methyl 10-carboxydecyldithiocarbamate | C(=O)(O)CCCCCCCCCCNC(SC)=S | C13H25NO2S2
